US07582775B2
2-[(2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-6-carbonyl)-amino]-2-methyl-propionic acid
Using the procedure analogous to Example 5, from 2-[(2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-6-carbonyl)-amino]-2-methyl-propionic acid methyl ester, example 30 (0.10 g, 0.18 mmol) and NaOH (0.036 g, 0.90 mmol) to furnish the titled compound (0.088 g, 0.016 mmol, 91%). LC/MS (m/z): calcd. for C31H41NO5S (M+H)+: 540.3; found: 540.3.

reactant | 2-[(2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-6-carbonyl)-amino]-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C=1C=CC2=C(SC(=C2)C(CC)(C2=CC(=C(C=C2)OCC(CC)(O)CC)C)CC)C1)=O | C32H43NO5S
reactant | NaOH | 0.90 mmol, 0.036 g | [OH-].[Na+]
product | 2-[(2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}-benzo[b]thiophene-6-carbonyl)-amino]-2-methyl-propionic acid | 0.016 mmol, 0.088 g, 91% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)C1=CC2=C(S1)C=C(C=C2)C(=O)NC(C(=O)O)(C)C | C31H41NO5S
